US04962109
A solution of sodium hydroxide 0.24 g) and ethyl 2-[2-(1,1-dimethylethyl)pyrimidin-5-yl]-3-methylbut-2-enoate (0.4 g) in isopropanol (10 cm3) and water (2 cm3) was heated to the reflux temperature for a period of 3 hours. After cooling to the ambient temperature the crude reaction mixture was concentrated by evaporation of the solvent under reduced pressure, and the residue was dissolved in water, and extracted with ethyl acetate. The aqueous portion was acidified with dilute hydrochloric acid, and extracted with ethyl acetate. The combined organic extracts were washed with water, dried over anhydrous magnesium sulphate and concentrated by evaporation of the solvent under reduced pressure to give 2-[2-(1,1-dimethylethyl)-pyrimidin-5-yl]-3-methylbut-2-enoic acid, containing a small amount of 2-[2-(1,1-dimethylethyl)-pyrimidin-5-yl]-3-methylbut-3-enoic acid. The crude product was used without further purification.

reactant | sodium hydroxide | 0.24 g | [OH-].[Na+]
reactant | ethyl 2-[2-(1,1-dimethylethyl)pyrimidin-5-yl]-3-methylbut-2-enoate | 0.4 g | CC(C)(C)C1=NC=C(C=N1)C(C(=O)OCC)=C(C)C | C15H22N2O2
solvent | isopropanol | 10 cm3 | C(C)(C)O | C3H8O
solvent | water | 2 cm3 | O | H2O
product | 2-[2-(1,1-dimethylethyl)-pyrimidin-5-yl]-3-methylbut-2-enoic acid | CC(C)(C)C1=NC=C(C=N1)C(C(=O)O)=C(C)C | C13H18N2O2
